US04364931
Preparation of 9-acetoxy-nonanal
To a solution of 31 g (0.11 moles) of crystallic periodic acid (HIO4, 2H2O) in 50 ml of water a solution of 25 g (0.076 moles) of 9.10-epoxy-octadecen-1-ol acetate in 220 ml of dioxane is added in 10 minutes. The reaction mixture is stirred at room temperature for a night, then poured onto water. The aqueous suspension is extracted twice with a total amount of 500 ml of petroleum ether, washed with water, dried with magnesium sulfate, the solvent is distilled off, and the residue is distilled in vacuo, under argon. The nonanal forming as a side-product is the first to distille over (b.p.: 80°-85° C., 9.75 g, 90%). The 9-acetoxy-nonanal distils over at 160°-162° C.

reactant | periodic acid | 0.11 moles, 31 g | I(=O)(=O)(=O)O | HIO4
reactant | 9.10-epoxy-octadecen-1-ol acetate | 0.076 moles, 25 g | C(C)(=O)OC=CCCCCCCC1C(CCCCCCCC)O1 | C20H36O3
solvent | water | 50 ml | O | H2O
solvent | dioxane | 220 ml | O1CCOCC1 | C4H8O2
product | 9-acetoxy-nonanal | C(C)(=O)OCCCCCCCCC=O | C11H20O3
